US06864259B2
4-(Oxazole-4-carbonyl-1-((S)-1-phenylethyl)pyrrolidin-2-one
To a cooled solution (−78° C.) of oxazole (10.3 g, 149.1 mmol) in tetrahydrofuran (150 mL) was added n-butyl lithium (2.5 M in hexane, 53.7 mL, 134.2 mmol). The solution was stirred at −78° C. for three hours. To the cold solution was added a solution of 5-oxo-1-((S)-1-phenylethyl)pyrrolidine-3-carboxylic acid, methoxymethylamide (8.2 g, 29.8 mmol [WO 0031062]) in tetrahydrofuran (50 mL). The mixture was warmed to ambient temperature and allowed to stir three hours followed by treatment with water, saturated aqueous ammonium chloride, and extraction with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered and the solvent removed under reduced pressure. The resulting residue was purified by silica gel column chromatography, eluting with hexane:ethyl acetate (1:4) to obtain 1.96 g of the title compound as a 1:1 mixture of isomers.

reactant | oxazole | 149.1 mmol, 10.3 g | O1C=NC=C1 | C3H3NO
reactant | n-butyl lithium | 134.2 mmol, 2.5 M, 53.7 mL | C(CCC)[Li]
reactant | 5-oxo-1-((S)-1-phenylethyl)pyrrolidine-3-carboxylic acid, methoxymethylamide | 29.8 mmol, 8.2 g | COCNC(=O)C1CN(C(C1)=O)[C@@H](C)C1=CC=CC=C1 | C15H20N2O3
reactant | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | Oxazole-4-carbonyl-1-((S)-1-phenylethyl)pyrrolidin-2-one | 1.96 g | O1C=NC(=C1)C(=O)C1C(N(CC1)[C@@H](C)C1=CC=CC=C1)=O | C16H16N2O3
